* source STABILIZATOR_DE_TENSIUNE_ERS
X_P1         N165196 N174252 N164904 POT PARAMS: SET=1 VALUE=5k
R_R4         N164622 N165018  1k TC=0,0 
R_R12         N164670 N164904  3.3k TC=0,0 
D_D7         0 N164850 BZX84-C5V1 
V_VCC         VCC 0 28.8
R_R10         N164632 VCC  220 TC=0,0 
R_R34         N165496 N165626  220 TC=0,0 
R_R8         N165772 0  220 TC=0,0 
D_D4         N164622 VCC BZX84-C2V7 
R_R14         N165018 N165320  1k TC=0,0 
Q_Q1         N164766 N164766 N164632 QBC807-25 
R_R11         N164638 VCC  220 TC=0,0 
R_R2         N164626 VCC  220 TC=0,0 
Q_Q22         VCC N165326 N165360 QBC817-25 
Q_Q5         N165188 N165326 N165772 QBC817-25 
R_RC4         N164368 OUT  0.47 TC=0,0 
R_R6         OUT N164670  2.7k TC=0,0 
R_RC2         N164362 N164368  0.47 TC=0,0 
Q_Q3         N164664 N174252 N165188 QBC817-25 
R_R28         N1658341 0  150 TC=0,0 
Q_Q2         N164766 N164850 N165188 QBC817-25 
R_R29         N165360 N165496  220 TC=0,0 
R_R9         N165196 N165502  4.7k TC=0,0 
Q_QESR         VCC N164664 N164470 QBC846B 
Q_Q19         N164850 N164622 N164626 QBC807-25 
R_R27         N165502 0  470 TC=0,0 
R_R30         N165626 N165778  150 TC=0,0 
Q_Q4         N164664 N164766 N164638 QBC807-25 
R_RC3         N164368 OUT  0.47 TC=0,0 
Q_QESR2         VCC N164470 N164348 QMJD31C 
X_P2         N1658341 N165898 N165778 POT PARAMS: SET=0.5 VALUE=100
Q_Q20         N164664 N164348 OUT QBC817-25 
D_D5         0 N165326 BZX84-C2V7 
R_RC1         N164348 N164362  1 TC=0,0 
R_R15         N165320 N165326  1k TC=0,0 
D_D9         VCC N172884 SMLS14BET 
Q_Q21         N164664 N165898 0 QBC817-25 
R_RLOAD8         OUT N170705  910 TC=0,0 
R_RLOAD9         OUT N170709  910 TC=0,0 
R_RLOAD10         N170709 0  680 TC=0,0 
R_RLOAD11         N170705 0  680 TC=0,0 
R_R17         N172884 N172888  910 TC=0,0 
R_R18         N172888 N173038  910 TC=0,0 
R_R19         N173038 0  910 TC=0,0 
